US09278915B2
Compound 7: 3-{4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoic acid
To a 25 mL RB flask fitted with magnetic stirrer was charged 2 mL of methanol and 1 mL of THF. To the stirred solvent, was added 3-{4-[4-(2-methoxyimino-2-phenyl-ethoxy)-benzyloxy]-phenyl}-propanoic acid methyl ester (0.085 g, 0.19 mmol). To the stirred solution, NaOH (0.015 g, 0.375 mmol) in water (1 mL) was added. The resulting solution was stirred at RT for 3 h. After completion of the reaction (reaction monitored by TLC), the solvent was evaporated under reduced pressure. The RM was diluted with 1 mL of water, cooled to 0° C., then acidified with 1N HCl (5 mL), and extracted with ethyl acetate (10 mL×2), organic layer was given water (5 mL) and saturated brine solution wash (5 mL), dried over anhydrous Na2SO4 and evaporated to dryness to yield colorless solid (0.050 g, yield: 63.3%); purity: 97.65%.

reactant | methanol | 2 mL | CO | CH4O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 3-{4-[4-(2-methoxyimino-2-phenyl-ethoxy)-benzyloxy]-phenyl}-propanoic acid methyl ester | 0.19 mmol, 0.085 g | COC(CCC1=CC=C(C=C1)OCC1=CC=C(C=C1)OCC(C1=CC=CC=C1)=NOC)=O | C26H27NO5
reactant | NaOH | 0.375 mmol, 0.015 g | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | 3-{4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoic acid | 0.050 g, yield: 63.3% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1)\C1=CC=CC=C1 | C25H25NO5
